US04892875
To a mixture of homopiperazine (5.0 g), potassium carbonate powder (13.8 g) and N,N-dimethylformamide (80 ml) was added ethylene bromohydrin (6.3 g) and the mixture was stirred at room temperature for 12 hours. Then, benzhydryl bromide (12.4 g) was added and the whole mixture was further stirred at room temperature for 6 hours, diluted with water and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the oily residue was purified by silica gel chromatography [eluent: chloroform-methanol (20:1)] to give 4-benzhydrylhomopiperazine-1-ethanol as an oil (2.7 g, 17.4%). IR(Neat): 3400 cm-1. NMR(CDCl3)δ: 1.6-1.9(2H, m), 2.5-2.9(10H, m), 3.08(1H, s), 3.52(2H, t, J=6), 4.57(1H, s), 7.0-7.5(10H, m).

reactant | homopiperazine | 5.0 g | N1CCNCCC1 | C5H12N2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene bromohydrin | 6.3 g | C(CO)Br | C2H5BrO
reactant | benzhydryl bromide | 12.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-benzhydrylhomopiperazine-1-ethanol | 2.7 g, 17.4% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CCC1)CCO | C20H26N2O
